US04920129
8-[2Methyl-6-(2-acetoxyacetyl)aminobenzylamino]3-(2-propynyl)-2 -methylimidazo[1,2-a]pyridine (0.33 g) was dissolved in a mixture of an aqueous solution (0.7 ml) of sodium carbonate (0.0118 g) and methanol (6.6 ml) at room temperature and then the mixture was stirred for 4 hours. The mixture was diluted with water and the resultant solid was collected to give 8-[2-methyl- 6-(2-hydroxyacetyl)aminobenzylamino]-3-(2-propynyl)-2-methylimidazo[1,2-a]pyridine (0.29 g).

reactant | 8-[2Methyl-6-(2-acetoxyacetyl)aminobenzylamino]3-(2-propynyl)-2 -methylimidazo[1,2-a]pyridine | 0.33 g | CC1=C(CNC=2C=3N(C=CC2)C(=C(N3)C)CC#C)C(=CC=C1)NC(COC(C)=O)=O | C23H24N4O3
solvent | sodium carbonate | 0.7 ml, 0.0118 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | methanol | 6.6 ml | CO | CH4O
solvent | water | O | H2O
product | 8-[2-methyl- 6-(2-hydroxyacetyl)aminobenzylamino]-3-(2-propynyl)-2-methylimidazo[1,2-a]pyridine | 0.29 g | CC1=C(CNC=2C=3N(C=CC2)C(=C(N3)C)CC#C)C(=CC=C1)NC(CO)=O | C21H22N4O2
